Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Compazine / Penicillins / Sulfa (Sulfonamide Antibiotics) / 
lisinopril / Enalapril / Flexeril / Klonopin / Cortisone / 
Neosporin AF / Allegra / pseudoephedrine / eggs / 
hydrochlorothiazide / gentak
 
Attending: ___.
 
Chief Complaint:
Status post motor vehicle collision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ brought in by MedFlight to ___ after ___ 
single car motor vehicle accident as unrestrained driver in 
which her car crashed into a telephone pole. There was unknown 
loss of consciousness and she was amnestic as to why she 
crashed. Per report she initially appeared to be asking 
repetitive questions at the scene, which resolved prior to the 
arrival of EMS. She was noted to have a 6 inch scalp laceration 
over the right anterior portion of her head. She denies any use 
of alcohol or drugs prior to driving. Upon arrival to the ED she 
is awake, alert, and conversant.
 
Past Medical History:
Afib (not on AC other than asa)
HTN
Ectopic pregnancy
s/p appendectomy
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals: T 98.3, BP 169/95, HR 68, RR 18, SpO2 95%RA
Gen: NAD, awake, alert, oriented
HEENT: Healing laceration to the right anterior scalp with 
interrupted sutures and staples in place, ~6 inches in length
CV: RRR
Resp: Respirations non-labored, no use of accessory muscles
Abd: Soft, NTND
Ext: Left upper extremity with ~3 inch stable hematoma visible 
with ecchymotic changes visible on skin. No lower extremity 
edema
Neuro: No gross motor or sensory deficits, oriented x3
Psych: Normal mood, affect
 
Pertinent Results:
LABORATORY STUDIES
___ 07:43PM BLOOD WBC-12.4* RBC-4.46 Hgb-12.9 Hct-39.4 
MCV-88 MCH-28.9 MCHC-32.7 RDW-15.0 RDWSD-49.2* Plt ___
___ 07:50AM BLOOD WBC-11.8* RBC-4.28 Hgb-12.5 Hct-37.6 
MCV-88 MCH-29.2 MCHC-33.2 RDW-15.1 RDWSD-48.2* Plt ___
___ 08:00AM BLOOD WBC-7.8 RBC-4.04 Hgb-11.7 Hct-36.1 MCV-89 
MCH-29.0 MCHC-32.4 RDW-15.3 RDWSD-49.3* Plt ___
___ 07:43PM BLOOD ___ PTT-26.6 ___
___ 07:50AM BLOOD ___
___ 07:43PM BLOOD UreaN-19 Creat-1.0
___ 07:50AM BLOOD Glucose-122* UreaN-12 Creat-0.9 Na-141 
K-3.4* Cl-100 HCO3-24 AnGap-17
___ 08:00AM BLOOD Glucose-110* UreaN-19 Creat-0.8 Na-146 
K-3.5 Cl-106 HCO3-25 AnGap-15
___ 07:50AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.0
___ 08:00AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.1
___ 07:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:43PM BLOOD Glucose-97 Lactate-1.4 Na-143 K-3.4 
Cl-104 calHCO3-23

URINE STUDIES AND MICROBIOLOGY
___ 08:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 8:20 pm URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
___ CXR
IMPRESSION: No acute intrathoracic abnormality.

___ CT HEAD
IMPRESSION: 
1. 3 mm hyperdense focus in the left frontal lobe may be 
calcification, but a punctate intraparenchymal hemorrhage, less 
likely subarachnoid hemorrhage cannot be excluded.
2. Deep laceration overlying the right frontal bone and 
extending posteriorly along the parietal bone, portions of this 
appear to extend to the surface of the calvarium.  There is also 
subgaleal hematoma overlying the right parietal bone.  No 
fracture is identified.

___ CT CHEST/ABDOMEN/PELVIS
IMPRESSION: 
1. No evidence of traumatic injury in the chest, abdomen or 
pelvis.
2. 3 mm left upper lobe nodule.  No follow-up is recommended in 
a low risk patient.  In a high risk patient, an optional ___hest is recommended to evaluate for stability.
3. Nodular thickening of the left adrenal gland is nonspecific, 
possibly related to adenomatous hyperplasia, though underlying 
discrete 1 cm nodule seen, statistically an adenoma.
4. Diverticulosis without evidence of diverticulitis.
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommend in a high-risk patient.

___ CT CERVICAL SPINE
IMPRESSION: 
1. Multilevel anterolisthesis is most likely degenerative in 
nature as there is no prevertebral soft tissue swelling or other 
finding to suggest acuity. However, in the absence of prior 
cervical spine imaging, ligamentous injury cannot be entirely 
excluded in the setting of trauma.  Comparison with prior 
cervical spine CT if available or MRI is recommended if there is 
clinical concern for ligamentous injury.
2. Superior endplate deformity of the T2 vertebral bodies is 
also likely chronic.
RECOMMENDATION(S):  Comparison with prior cervical spine CT or 
if there is high clinical concern for ligamentous injury MRI 
cervical spine.

___ MRI CERVICAL SPINE
IMPRESSION: 
1.  Study is moderately degraded by motion.
2. Acute to subacute compression deformity involving the T2 
vertebral body with mild loss of height and no definite bony 
retropulsion.
3. No evidence for bony retropulsion or ligamentous injury.
4. Nonspecific right C5 through T3 paraspinal muscle edema.
5. Multilevel cervical spondylosis as described, with C6-7 mild 
vertebral canal narrowing with deformation of the ventral thecal 
sac and spinal cord without definite associated cord signal 
abnormality.
6. C4-5 moderate right and C6-7 moderate bilateral neural 
foraminal narrowing.
 
Brief Hospital Course:
Ms. ___ was admitted to the trauma surgery service on 
___ for pain control, close monitoring after initial concern 
for loss of consciousness vs. retograde amnesia, and physical 
therapy evaluation and treatment. Her scalp laceration was 
washed out and she recieved sutures and staples while still in 
the ED. Her left upper extremity hematoma was monitored and 
stable without change in arm sensation or distal pulses. She was 
seen by the neurosurgery team for possible traumatic brain 
injury and further review of a 3 mm hyperdense focus in the left 
frontal lobe seen on CT head. She was felt to have a mild TBI 
and the imaging finding was felt not to be traumatic but instead 
possibly due to an incidentally found cavernous malformation. 
She was recommended for outpatient follow-up and further 
imaging. She was also seen by physical medicine and 
rehabilitation, which recommended ___ evaluation and 
treatment. This was arranged and she was cleared for discharge 
to home by both of these services. The orthopedic spine service 
was also consulted and felt she had a T2 fragility fracture 
without concern for neurological injury or clinical instability. 
This was recommended for treatment with ___, analgesia, rigid 
orthosis, and outpatient follow-up. Of note, the patient was 
ambulatory without pain and cleared by ___ prior to receiving 
updated attending orthopedist recommendations for brace. As of 
the date of discharge, the patient was hemodynamically stable, 
ambulatory, with pain well-controlled and scalp laceration 
re-approximated and in process of healing. When updated 
orthopedics recommendations were discussed with the patient she 
adamantly expressed a strong desire to avoid rigid bracing and 
the trauma team reached out to the orthopedics service regarding 
the continued necessity for rigid brace given excellent clinical 
status. It was determined that the patient would be discharged 
to home with plans for relevant outpatient follow-ups and 
instructions to call the orthopedic spine clinic the next day to 
discuss whether she still required a brace. Discharge 
instructions were reviewed with the patient prior to discharge 
and all questions were answered to her satisfaction.
 
Medications on Admission:
1. Aspirin 81 mg PO DAILY
2. Atenolol 50 mg PO BID
3. Diltiazem Extended-Release 360 mg PO DAILY
4. LORazepam 0.5 mg PO Q8H:PRN anxiety
5. PARoxetine 20 mg PO DAILY
6. Simvastatin 10 mg PO QPM
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 17.2 mg PO HS  
5.  Aspirin 81 mg PO DAILY  
6.  Atenolol 50 mg PO BID  
7.  Diltiazem Extended-Release 360 mg PO DAILY  
8.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
9.  PARoxetine 20 mg PO DAILY  
10.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Scalp laceration
Left upper extremity hematoma
Mild traumatic brain injury
Cervical spine anterolisthesis
T2 vertebral compression fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after ___ motor vehicle 
accident in which you had a scalp laceration, left upper arm 
hematoma (bruise under the skin), and possible loss of 
consciousness/mild traumatic brain injury. On our imaging you 
were also found to have a chronic-appearing deformity in your 
cervical spine (consistent with your known history), an acute to 
subacute T2 vertebral compression fracture, and a small 
abnormality in the left frontal lobe which our neurosurgeons did 
not feel was traumatic but which they recommend further 
outpatient for in order to rule out an incidental cavernous 
malformation. Your pain is now well-controlled, you are able to 
ambulate on your own, and you have been cleared for discharge to 
continue your recovery at home. Please follow the below 
instructions to ensure a speedy recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Laceration Site Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the 
laceration site

*Avoid swimming and baths until the wound has healed.

*You may shower, and wash with a mild soap and warm water. 
Gently pat the area dry.

*Your staples and sutures may be removed at your follow-up 
appointment with your PCP.
 
Followup Instructions:
___